*XVARRESISTOR:Potentiometer Subcircuit Parameters
*XVARRESISTOR:VALUE:|Total resistance [1,]|1k
*XVARRESISTOR:WIPER:|Percent on [1,100]%|50
*{VALUE=1k WIPER=50}
*Generic type:potentiometer
.SUBCKT XVARRESISTOR 1 2 3
R1 1 2 {((VALUE * WIPER)/100)}
R2 2 3 {(VALUE - ((VALUE * WIPER)/100))}
.ENDS XVARRESISTOR
